US05739140
A mixture of methyl 2-(bromomethyl)benzoate (10.00 g, 43.7 mmol), 4-(1-indanyl)phenol (11.47 g, 54.5 mmol), and potassium carbonate (13.27 g, 96.0 mmol) in DMF was heated at 60° C. for 4h, then was allowed to stir at room temperature for 3d. The resulting reaction mixture was partitioned between ether and water, then the organic phase was dried over magnesium sulfate, concentrated, and purified by chromatography over silica gel eluted with 4% ethyl acetate in hexanes to afford 14.8 g of methyl 2-[4-(1-indanyl)phenoxymethyl]benzoate as a colorless oil.

reactant | methyl 2-(bromomethyl)benzoate | 43.7 mmol, 10.00 g | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
reactant | 4-(1-indanyl)phenol | 54.5 mmol, 11.47 g | C1(CCC2=CC=CC=C12)C1=CC=C(C=C1)O | C15H14O
reactant | potassium carbonate | 96.0 mmol, 13.27 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 2-[4-(1-indanyl)phenoxymethyl]benzoate | 14.8 g | C1(CCC2=CC=CC=C12)C1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1 | C24H22O3
